US05256395
Synthesis of N-hydroxysuccinimide 2,4-dinitrophenyl-aminocaproate.
2,4-dinitrophenyl-aminocaproic acid (300 mg) is dissolved in 6 ml of dioxane and N-hydroxysuccinimide, 120 mg in 4 ml of ethyl acetate, is added. N,N'-dicylohexylcarbodiimide, 200 mg in 2 ml of dioxane, is added, and the mixture is allowed to react for 3 h at room temperature. The precipitate which forms during the reaction is filtered off and the solution is evaporated to dryness under reduced pressure. The yellow residue is crystallized in boiling absolute ethanol. The yellow needles of the N-hydroxysuccinimide ester are collected and dried (Rf=0.59 by TLC in chloroform:ethyl acetate, 1:1 on silica gel).

reactant | 2,4-dinitrophenyl-aminocaproic acid | 300 mg | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])C(C(=O)O)(CCCC)N | C12H15N3O6
reactant | N,N'-dicylohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dioxane | 6 ml | O1CCOCC1 | C4H8O2
reactant | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | N-hydroxysuccinimide | ON1C(CCC1=O)=O | C4H5NO3
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
product | N-hydroxysuccinimide 2,4-dinitrophenyl-aminocaproate | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])C(C(=O)O)(CCCC)N.ON1C(CCC1=O)=O | InChI=1S/C12H15N3O6.C4H5NO3/c1-2-3-6-12(13,11(16)17)9-5-4-8(14(18)19)7-10(9)15(20)21;6-3-1-2-4(7)5(3)8/h4-5,7H,2-3,6,13H2,1H3,(H,16,17);8H,1-2H2
